US05057524
A solution of 2.8 g (0.012 mole) of 9-bromononanoic acid, 2 ml of methane sulfonic acid, and 150 ml of absolute ethanol was heated at reflux for 2 h. The mixture was concentrated under reduced pressure and the residue partitioned between ethyl acetate and water. The organic layer was washed with water and brine, dried (MgSO4) and concentrated under reduced pressure to yield 3.0 g (96%) of ethyl 9-bromonanoate as a light-yellow liquid. A mixture of 3.4 g (0.011 mole) of α,α-bis(4-fluorophenyl)-4-piperidinemethanol, 3.0 g (0.011 mole) of ethyl 9-bromonanoate, 6.4 g (0.060 mole) of anhydrous sodium carbonate and 0.3 g (0.002 mole) of potassium iodide in 50 ml of N,N-dimethylformamide was heated on a steam bath for 16 h. The mixture was poured into 1 L of water and extracted three times with 250 ml portions of ethyl acetate. The ethyl acetate extracts were combined, washed with water and brine, dried (MgSO4) and concentrated under reduced pressure to give a dark oil. The oil was purified by high pressure liquid chromatography (Waters Associates Prep LC/System 500A; PrepPAK® 500/silica; ethyl acetate-hexane 1:1; flow rate 150 ml/min). The fractions containing the desired product were combined and concentrated under reduced pressure to yield 4.0 g (75%) of golden viscous oil containing 0.25 mole of H2O.

reactant | 9-bromononanoic acid | 0.012 mole, 2.8 g | BrCCCCCCCCC(=O)O | C9H17BrO2
reactant | methane sulfonic acid | 2 ml | CS(=O)(=O)O | CH4O3S
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 9-bromonanoate | 3.0 g, 96% | [BrH]1CCCCCCCC1C(=O)OCC | C11H21BrO2
